US07223772B1
vii) 4-[2-(3-Fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide
A mixture of 4-iodobenzenesulphonamide (651 mg); dipinacoldiborane (495 mg)2; potassium acetate (860 mg); and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride complex:dichloromethane (1:1) (50 mg); in DMF (5 ml) was heated under nitrogen at 80° for 1.5 h. To the cooled reaction mixture was added 3-bromo-2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine (330 mg, 0.919 mmol), 2N Na2CO3 (4 ml) and tetrakis(triphenylphosphine)palladium(0) (40 mg) and the mixture heated at reflux under nitrogen for 18 hours. The cooled reaction mixture was poured into water (30 ml) and the suspension extracted with ethyl acetate (3×20 ml). The organic extracts were combined, dried (Na2SO4) and concentrated in vacuo. The residue was purified by SPE chromatography eluting with a gradient of cyclohexane:ethyl acetate (100:0 to 0:100, 10% step). Trituration of the concentrated fractions containing product with diethyl ether gave the title compound as a white solid (139 mg, 35%). MH+ 436

reactant | 4-iodobenzenesulphonamide | 651 mg | IC1=CC=C(C=C1)S(=O)(=O)N | C6H6INO2S
reactant | potassium acetate | 860 mg | C(C)(=O)[O-].[K+]
reactant | 3-bromo-2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine | 0.919 mmol, 330 mg | BrC=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2)F | C14H7BrF4N2
reactant | Na2CO3 | 2N, 4 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 ml | O | H2O
solvent | dichloromethane | 50 mg | ClCCl | CH2Cl2
product | 4-[2-(3-Fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide | 139 mg, 35% | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)N | C20H13F4N3O2S
